US04857435
Synthesis of maleimide/methacrylonitrile copolymers
In accordance with the procedure of Example 4, 12 g of maleimide 8.3 g of methacrylonitrile (Aldrich) 21 mL of DMF, 0.8 g of AIBN and 0.1 g of dodecanethiol were charged to a reaction vessel. The reaction mixture was heated for 15 hours at 90° C. The resultant solution was treated in accordance with procedure of Example 4. The final product (yield, 46% of theory) was dried in vacuum, overnight. The relative viscosity of the polymer, ηrel, was 1.07 (0.5 g of polymer per deciliter in dimethylformamide at 25° C.).

reactant | maleimide | 12 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | methacrylonitrile | 21 mL | C(C(=C)C)#N | C4H5N
reactant | AIBN | 0.8 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | dodecanethiol | 0.1 g | C(CCCCCCCCCCC)S | C12H26S
solvent | DMF | CN(C)C=O | C3H7NO
product | maleimide methacrylonitrile | C1(C=CC(N1)=O)=O.C(C(=C)C)#N | InChI=1S/C4H3NO2.C4H5N/c6-3-1-2-4(7)5-3;1-4(2)3-5/h1-2H,(H,5,6,7);1H2,2H3
